US04940703
(c) 1-Cyclopropylmethyl-1H-indole-3-nitrile
Trifluoroacetic anhydride (19.5 g) was added dropwise to a cooled (0° C.), stirred solution of 1-cyclopropylmethyl-1H-indole-3-carboxamide (5 g) in dioxane (100 ml) and triethylamine (18 g). After the addition the mixture was stirred at room temperature for two hours, the mixture was diluted with dichloromethane (200 ml) and washed with water (3×100 ml), dried (Na2SO4) and evaporated at reduced pressure. The residue was purified by column chromatography on silica eluting with dichloromethane to afford a colourless oil, (5 g); δH (CDCl3, 60 MHz) 0.3-0.6 (4H, m, 2×CH2), 0.9 (1H, m, CH), 4.0 (2H, d, J=7, CH2), 7.0-7.7 (5H, m); νmax 2210 (C≡N).

reactant | Trifluoroacetic anhydride | 19.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-cyclopropylmethyl-1H-indole-3-carboxamide | 5 g | C1(CC1)CN1C=C(C2=CC=CC=C12)C(=O)N | C13H14N2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 18 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-Cyclopropylmethyl-1H-indole-3-nitrile | C1(CC1)CN1C=C(C2=CC=CC=C12)C#N | C13H12N2
